US06559127B1
Synthesis of N-(Toluene-4-sulfonyl)sarcosyl-L-(N-benzyl)bistidine Methyl Ester
N-(Toluene-4-sulfonyl)sarcosine methyl ester was prepared from sarcosine methyl ester using the procedure described in Method 1. The title compound was prepared by coupling in DMF N-(toluene-4-sulfonyl)sarcosine with (N-benzyl)histidine methyl ester in the presence of BOP and NMM, to give after aqueous workup and flash chromatography, the title compound.

reactant | sarcosine methyl ester | COC(CNC)=O | C4H9NO2
reactant | (N-benzyl)histidine methyl ester | COC([C@@H](NCC1=CC=CC=C1)CC1=CNC=N1)=O | C14H17N3O2
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | DMF N-(toluene-4-sulfonyl)sarcosine | CN(C)C=O.C1(=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)O)C
product | N-(Toluene-4-sulfonyl)sarcosine methyl ester | COC(CN(C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C11H15NO4S
